US05776699
2,3-dihydro-6-(2-trimethylsilylethynyl)-(4H)-1-benzothiopyran-4-one
A solution of 1.00 g (4.11 mmol) 2,3-dihydro-6-bromo-(4H)-1-benzothiopyran-4-one and 78.3 mg (0.41 mmol) CuI in 15.0 ml THF and 6.0 ml Et2NH was sparged with argon for 5 minutes. To this solution was added 2.0 ml (1.39 g, 14.2 mmol) of (trimethylsilyl)acetylene followed by 288.5 mg (0.41 mmol) of bis(triphenylphosphine)palladium(II) chloride. The resulting dark solution was stirred at room temperature for 3 days and then filtered through a pad of Celite, which was washed with EtOAc. The filtrate was washed with H2O and saturated aqueous NaCl before being dried over MgSO4. The title compound was isolated as an orange oil by column chromatography (4% EtOAc--hexanes). 1H NMR (CDCl3): δ 8.13 (1H, d, J=1.9 Hz), 7.36 (1H, dd, J=2.1, 8.2 Hz), 7.14 (1H, d, J=8.2 Hz), 3.19 (2H, d, J=6.3 Hz), 2.91 (2H, d, J=6.3 Hz), 0.21 (9H, s).

reactant | 2,3-dihydro-6-bromo-(4H)-1-benzothiopyran-4-one | 4.11 mmol, 1.00 g | BrC=1C=CC2=C(C(CCS2)=O)C1 | C9H7BrOS
reactant | (trimethylsilyl)acetylene | 14.2 mmol, 2.0 ml, 1.39 g | C[Si](C)(C)C#C | C5H10Si
solvent | THF | 15.0 ml | C1CCOC1 | C4H8O
solvent | Et2NH | 6.0 ml | N(CC)CC | C4H11N
catalyst | CuI | 0.41 mmol, 78.3 mg | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.41 mmol, 288.5 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2,3-dihydro-6-(2-trimethylsilylethynyl)-(4H)-1-benzothiopyran-4-one | C[Si](C#CC=1C=CC2=C(C(CCS2)=O)C1)(C)C | C14H16OSSi
